US04873237
7-Ethoxy-2,3-dihydro-2-(2-pyridyl)thiazolo[3,2-a]benzimidazole
5-Ethoxy-2-mercaptobenzimidazole (6.03 g) was suspended in 2-methylpropan-2-ol (100 ml) at 50° C. Potassium tert-butoxide (3.48 g) was added and the mixture stirred for 1 hour. The temperature was allowed to fall to 35° C. and 2-(1,2-dibromoethyl)pyridine hydrobromide (10.76 g) was added. The resulting mixture was stirred for 1 hour at 35° C. and then 2 hours at reflux.

reactant | 5-Ethoxy-2-mercaptobenzimidazole | 6.03 g | C(C)OC1=CC2=C(N=C(N2)S)C=C1 | C9H10N2OS
reactant | Potassium tert-butoxide | 3.48 g | CC(C)([O-])C.[K+]
reactant | 2-(1,2-dibromoethyl)pyridine hydrobromide | 10.76 g | Br.BrC(CBr)C1=NC=CC=C1
solvent | 2-methylpropan-2-ol | 100 ml | CC(C)(C)O | C4H10O
product | 7-Ethoxy-2,3-dihydro-2-(2-pyridyl)thiazolo[3,2-a]benzimidazole | C(C)OC1=CC2=C(N3C(=N2)SC(C3)C3=NC=CC=C3)C=C1 | C16H15N3OS
